US04164407
Step D, 7-chloro-2-dimethylamino-4H-1,3-benzoxazine
Repeating the procedure of Step D of Example 1, but using in place of the 2-bromomethyl-4-chlorophenylisocyanate used therein, an approximately equal amount of 2-bromomethyl-5-chlorophenylisocyanate, there is accordingly obtained 7-chloro-2-dimethylamino-4H-1,3-benzoxazine hydrobromide (m.p. 173°-176°) which is converted to its free base form (m.p. 118°-120°) in the same manner as described in Step D of Example 1.

reactant | 2-bromomethyl-4-chlorophenylisocyanate | BrCC1=C(C=CC(=C1)Cl)N=C=O | C8H5BrClNO
reactant | 2-bromomethyl-5-chlorophenylisocyanate | BrCC1=C(C=C(C=C1)Cl)N=C=O | C8H5BrClNO
reactant | 7-chloro-2-dimethylamino-4H-1,3-benzoxazine hydrobromide | Br.ClC1=CC2=C(CN=C(O2)N(C)C)C=C1
product | 7-chloro-2-dimethylamino-4H-1,3-benzoxazine | ClC1=CC2=C(CN=C(O2)N(C)C)C=C1 | C10H11ClN2O
